US04918073
(f) 1-[3,3-Bis(4-fluorophenyl)propyl]piperazine
31.1 g (0.100 mol) of 3,3-bis(4-fluorophenyl)propyl bromide, 20.6 g (0.130 mol) of ethyl piperazine-1-carboxylate, 27.6 g (0.200 mol) of powdered potassium carbonate and 4.15 g of potassium iodide were heated at the reflux temperature in 400 ml of toluene for 31 hours; the precipitate was then filtered off and the filtrate was concentrated. The material thus obtained was dissolved in 450 ml of ethanol, 450 ml of 4N KOH were added and the mixture was heated under reflux for 9 hours. After customary working up (compare Example 3d), 26.8 g of product, melting point 58°-64° C., were obtained.

reactant | 3,3-bis(4-fluorophenyl)propyl bromide | 0.100 mol, 31.1 g | FC1=CC=C(C=C1)C(CCBr)C1=CC=C(C=C1)F | C15H13BrF2
reactant | ethyl piperazine-1-carboxylate | 0.130 mol, 20.6 g | N1(CCNCC1)C(=O)OCC | C7H14N2O2
reactant | potassium carbonate | 0.200 mol, 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 4.15 g | [I-].[K+]
reactant | KOH | 4N, 450 ml | [OH-].[K+]
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 450 ml | C(C)O | C2H6O
product | 1-[3,3-Bis(4-fluorophenyl)propyl]piperazine | 26.8 g | FC1=CC=C(C=C1)C(CCN1CCNCC1)C1=CC=C(C=C1)F | C19H22F2N2
